US04296120
2-Methyl-3-(3-Nitrophenyl)propenoic Acid
A mixture of 75 g. of 3-nitrobenzaldehyde, 98 g. of propionic anhydride and 48 g. of sodium propionate was heated at 170° to 175° C. for 1.25 hours, and then it was cooled and poured into 750 ml. of ice-water. Concentrated ammonium hydroxide was then added until a basic pH was obtained. The mixture was warmed on a steam bath for a few minutes and then the small amount of insoluble material was removed by filtration. The filtrate was acidified with concentrated hydrochloric acid and the solid was recovered by filtration. This crude product was recrystallized from aqueous ethanol to give 81 g. of the title compound, m.p. 200.5°-202° C.

reactant | 3-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium propionate | C(CC)(=O)[O-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 2-Methyl-3-(3-Nitrophenyl)propenoic Acid | CC(C(=O)O)=CC1=CC(=CC=C1)[N+](=O)[O-] | C10H9NO4
